US08492372B2
1-{[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}PIPERIDINE
A mixture of 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine (0.70 g, 2.28 mmol), piperidine (2.0 ml, 20.2 mmol) and EtOH (4.0 ml) was heated under microwave irradiation at 130° C. for 30 min. The volatiles were evaporated in vacuum and the crude product was chromathographed twice on a silica column using EtOAc as eluent. Collection of the fractions containing pure product and evaporation of the solvent afforded the pure title compound (0.31 g, 49%). The amine was converted into HCl salt and crystallized from MeOH/DEE (0.33 g). M.p. 217° C. 1H-NMR (400 MHz, MeOH): δ 7.49 (1H, dd, J1 8.0 Hz, J22.0 Hz), δ 7.39 (1H, d, J 1.6 Hz), δ 7.31 (1H, d, J 8.0 Hz), δ 5.31 (1H, t, J 5.2 Hz), δ 5.02 (2H, dd, J1 60.4 Hz, J2 15.6 Hz), δ 3.10 (3H, s), δ 2.77 (2H, m), δ 2.60 (4H, s, broad), δ 1.63 (4H, m), δ 1.49 (2H, m).

reactant | 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine | 2.28 mmol, 0.70 g | BrCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C10H11BrO4S
reactant | piperidine | 20.2 mmol, 2.0 ml | N1CCCCC1 | C5H11N
solvent | EtOH | 4.0 ml | CCO | C2H6O
product | 1-{[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}PIPERIDINE | 0.31 g, 49% | CS(=O)(=O)C=1C=CC2=C(OC(OC2)CN2CCCCC2)C1 | C15H21NO4S
